US07714010B2
2-(4-Methoxy-phenyl)-7,7-dimethyl-6-oxo-6,7-dihydro-1H-imidazo[4,5-f]indole-5-carboxylic acid propylamide
A solution of N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-4-methoxy-benzamide (200 mg) and propyl isocyanate (59 μl) in dry toluene (2 ml) is stirred in a microwave apparatus at 150° C. for 900 s. The resulting solid is collected by filtration, dissolved in acetic acid (3 ml) and iron (200 mg; powder) is added and the mixture is again stirred in a microwave apparatus at 150° C. for 900 s to achieve reduction of the nitro function and ring closure. The mixture is filtered and concentrated in vacuo. The desired compound (65 mg) is obtained by preparative RP-HPLC.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-4-methoxy-benzamide | 200 mg | CC1(C(NC2=CC(=C(C=C12)NC(C1=CC=C(C=C1)OC)=O)[N+](=O)[O-])=O)C | C18H17N3O5
reactant | propyl isocyanate | 59 μl | C(CC)N=C=O | C4H7NO
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Methoxy-phenyl)-7,7-dimethyl-6-oxo-6,7-dihydro-1H-imidazo[4,5-f]indole-5-carboxylic acid propylamide | 65 mg | C(CC)NC(=O)N1C(C(C=2C=C3C(=CC12)N=C(N3)C3=CC=C(C=C3)OC)(C)C)=O | C22H24N4O3
